


.topckt OTA_FF_2s_v3e avdd avss ibin in ip on op vcas vcmi

m35 net057 ibin avdd avdd pch_lvt l=120e-9 w=10e-6 m=1 nf=2 

m34 cmfb vcmo net057 net057 pch_lvt l=120e-9 w=5e-6 m=1 nf=1 

m33 net044 vcmi net057 net057 pch_lvt l=120e-9 w=5e-6 m=1 nf=1 

m62 avdd ibin avdd avdd pch_lvt l=120e-9 w=52.5e-6 m=1 nf=21 

m54 net59 net59 net59 net59 pch_lvt l=120e-9 w=30e-6 m=1 nf=12 

m43 net5 net5 net5 net5 pch_lvt l=120e-9 w=15e-6 m=1 nf=6 

m53 avdd ibin avdd avdd pch_lvt l=120e-9 w=15e-6 m=1 nf=6 

m57 avdd ibin avdd avdd pch_lvt l=120e-9 w=10e-6 m=1 nf=4 

m37 op in net59 net59 pch_lvt l=120e-9 w=60e-6 m=1 nf=12 

m23 on ip net59 net59 pch_lvt l=120e-9 w=60e-6 m=1 nf=12 

m63 net75 vcas net75 net75 pch_lvt l=120e-9 w=20e-6 m=1 nf=8 

m58 net057 vcmo net057 net057 pch_lvt l=120e-9 w=5e-6 m=1 nf=2 

m36 net59 ibin avdd avdd pch_lvt l=120e-9 w=120e-6 m=1 nf=24 

m41 avdd ibin avdd avdd pch_lvt l=120e-9 w=7.5e-6 m=1 nf=3 

m16 ibin vcas net75 net75 pch_lvt l=120e-9 w=10e-6 m=1 nf=2 

m50 on1 ip net5 net5 pch_lvt l=120e-9 w=5e-6 m=1 nf=1 

m48 net057 vcmi net057 net057 pch_lvt l=120e-9 w=15e-6 m=1 nf=6 

m6 net75 ibin avdd avdd pch_lvt l=120e-9 w=10e-6 m=1 nf=2 

m4 net5 ibin avdd avdd pch_lvt l=120e-9 w=10e-6 m=1 nf=2 

m20 op1 in net5 net5 pch_lvt l=120e-9 w=5e-6 m=1 nf=1 

m7 avss op1 avss avss nch_lvt l=500e-9 w=4e-6 m=1 nf=4 

m2 avss on1 avss avss nch_lvt l=500e-9 w=4e-6 m=1 nf=4 

m0 avss cmfb avss avss nch_lvt l=120e-9 w=10e-6 m=1 nf=10 

m66 avss on1 avss avss nch_lvt l=120e-9 w=2e-6 m=1 nf=2 

m64 avss op1 avss avss nch_lvt l=120e-9 w=2e-6 m=1 nf=2 

m55 avss avss avss avss nch_lvt l=120e-9 w=2e-6 m=1 nf=2 

m21 on op1 avss avss nch_lvt l=120e-9 w=12e-6 m=1 nf=12 

m19 op on1 avss avss nch_lvt l=120e-9 w=12e-6 m=1 nf=12 

m29 cmfb cmfb avss avss nch_lvt l=120e-9 w=1e-6 m=1 nf=1 

m14 op1 cmfb avss avss nch_lvt l=120e-9 w=1e-6 m=1 nf=1 

m13 on1 cmfb avss avss nch_lvt l=120e-9 w=1e-6 m=1 nf=1 

m59 avss net044 avss avss nch_lvt l=120e-9 w=2e-6 m=1 nf=2 

m30 net044 net044 avss avss nch_lvt l=120e-9 w=1e-6 m=1 nf=1 

m56 avss cmfb avss avss nch_lvt l=120e-9 w=2e-6 m=1 nf=2 

xc4 on vcmo avss cfmom nr=24 lr=3.8e-6 w=100e-9 s=100e-9 stm=2 spm=6 multi=1 ftip=140e-9 dmflag=0

xc5 op vcmo avss cfmom nr=24 lr=3.8e-6 w=100e-9 s=100e-9 stm=2 spm=6 multi=1 ftip=140e-9 dmflag=0
xr12 op avss  rppolywo_m lr=20e-6 wr=1e-6 multi=1 m=1

xr13 vcmo avss  rppolywo_m lr=20e-6 wr=1e-6 multi=1 m=1

.ends OTA_FF_2s_v3e
